US05206235
Step G: 3-Methoxysulfonylamino-3-methyl-N-[2,3,4,5-tetrahydro-2-oxo-1H-1-benzazepin-3(R)-yl]-butanamide
A suspension of 98.31 g (0.530 mol) of 3(R)-amino-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one in 1600 mL of methanol at room temperature was treated with 155 mL (1.112 mol) of triethylamine. The resulting suspension was cooled to 0° C. and treated with a solution of 110.01 g (0.557 mol) of N-chlorosulfonyl-4,4-dimethylazetidin-2-one in 960 mL of methanol over 20 minutes maintaining the internal temperature below 10° C. Additional methanol (100 mL) was used to rinse the flask and the rinse was transferred into the reaction vessel. The reaction mixture was warmed to room temperature and stirred for 90 minutes.

reactant | 3(R)-amino-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one | 0.530 mol, 98.31 g | N[C@H]1C(NC2=C(CC1)C=CC=C2)=O | C10H12N2O
reactant | triethylamine | 1.112 mol, 155 mL | C(C)N(CC)CC | C6H15N
reactant | N-chlorosulfonyl-4,4-dimethylazetidin-2-one | 0.557 mol, 110.01 g | ClS(=O)(=O)N1C(CC1(C)C)=O | C5H8ClNO3S
reactant | methanol | 1600 mL | CO | CH4O
reactant | methanol | 960 mL | CO | CH4O
reactant | methanol | 100 mL | CO | CH4O
product | 3-Methoxysulfonylamino-3-methyl-N-[2,3,4,5-tetrahydro-2-oxo-1H-1-benzazepin-3(R)-yl]-butanamide | COS(=O)(=O)NC(CC(=O)N[C@H]1C(NC2=C(CC1)C=CC=C2)=O)(C)C | C16H23N3O5S
